US05049575
To a solution of 8.0 g of α,α-diethyl-2-hydroxymethyl-3-acetaminobenzyl alcohol in 300 ml of tetrahydrofuran was added 32 g of activated manganese dioxide and the mixture was allowed to react for 6 hours under refluxing. After the reaction was over, the reaction mixture was left to stand for cooling and filtered on a glass filter having a bed of celite. The residue was washed with 100 ml of tetrahydrofuran. The filtrate and the washed solution were combined and concentrated to obtain an oily substance. The oily substance was purified by silica gel column chromatography to obtain 4.9 g of 3,3-diethyl-7-acetaminophthalide in the colorless oily substance.

reactant | α,α-diethyl-2-hydroxymethyl-3-acetaminobenzyl alcohol | 8.0 g | C(C)C(C1=C(C(=CC=C1)NC(=O)C)CO)(CC)O | C14H21NO3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 32 g | [O-2].[O-2].[Mn+4]
product | 3,3-diethyl-7-acetaminophthalide | 4.9 g | C(C)C1(OC(=O)C2=C(C=CC=C12)NC(=O)C)CC | C14H17NO3
